US06573263B2
Analogously to Example 10A, 5.1 g (25.4 mmol) of 2-(4-methoxyphenyl)ethanamidine hydrochloride are reacted with 1.53 g (30.5 mmol) of hydrazine hydrate and 7.14 g (38.1 mmol) of ethyl 3-(acetylamino)-2-oxobutanoate to give N-{1-[3-(4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}acetamide.

reactant | 2-(4-methoxyphenyl)ethanamidine hydrochloride | 25.4 mmol, 5.1 g | Cl.COC1=CC=C(C=C1)CC(=N)N
reactant | hydrazine hydrate | 30.5 mmol, 1.53 g | O.NN
reactant | ethyl 3-(acetylamino)-2-oxobutanoate | 38.1 mmol, 7.14 g | C(C)(=O)NC(C(C(=O)OCC)=O)C | C8H13NO4
product | N-{1-[3-(4-methoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]ethyl}acetamide | COC1=CC=C(CC2=NN=C(C(N2)=O)C(C)NC(C)=O)C=C1 | C15H18N4O3
